### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Acyclic): every graph has a spanning forest

### PR DESCRIPTION
**Pull request by thomaskwaring**
We show that every graph has a spanning forest: defined to be an acyclic subgraph with the same reachability relation as the larger graph. As a special case, every connected graph has a spanning tree.

---

Each of these results (spanning forest & spanning tree) are proved in two versions: a general case where the forest / tree is found by extending a given acyclic subgraph, and the special case where that subgraph is empty.

- [ ] depends on: #32043

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 1]
```diff
@@ -464,6 +459,35 @@ theorem maximal_isAcyclic_iff_isTree [Nonempty V] {T : SimpleGraph V} :
...
+theorem exists_isAcyclic_reachable_eq_le_of_le_of_isAcyclic {H : SimpleGraph V} (hH_le : H ≤ G)
+  (hH_isAcyclic : H.IsAcyclic) :
+    ∃ F : SimpleGraph V, H ≤ F ∧ F ≤ G ∧ F.IsAcyclic ∧ F.Reachable = G.Reachable := by
+  obtain ⟨F, hF⟩ := G.exists_maximal_isAcyclic_of_le_isAcyclic hH_le hH_isAcyclic
+  use F
+  grind [maximal_isAcyclic_iff_reachable_eq, Maximal]
+
+/-- Every graph has a spanning forest. -/
+theorem exists_isAcyclic_reachable_eq_le :
+    ∃ F : SimpleGraph V, F ≤ G ∧ F.IsAcyclic ∧ F.IsAcyclic := by
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: This has a duplicated `∧ F.IsAcyclic`, perhaps the second condition should be `F.Reachable = G.Reachable `? Because otherwise the theorem is trivial/doesn't match the docstring.

Comment (thomaskwaring) [reply Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: oops thank you!

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 2]
```diff
@@ -464,6 +459,35 @@ theorem maximal_isAcyclic_iff_isTree [Nonempty V] {T : SimpleGraph V} :
...
+theorem exists_isAcyclic_reachable_eq_le_of_le_of_isAcyclic {H : SimpleGraph V} (hH_le : H ≤ G)
+  (hH_isAcyclic : H.IsAcyclic) :
+    ∃ F : SimpleGraph V, H ≤ F ∧ F ≤ G ∧ F.IsAcyclic ∧ F.Reachable = G.Reachable := by
+  obtain ⟨F, hF⟩ := G.exists_maximal_isAcyclic_of_le_isAcyclic hH_le hH_isAcyclic
+  use F
+  grind [maximal_isAcyclic_iff_reachable_eq, Maximal]
+
+/-- Every graph has a spanning forest. -/
+theorem exists_isAcyclic_reachable_eq_le :
+    ∃ F : SimpleGraph V, F ≤ G ∧ F.IsAcyclic ∧ F.Reachable = G.Reachable := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]:
```suggestion
    ∃ F ≤ G, F.IsAcyclic ∧ F.Reachable = G.Reachable := by
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 3]
```diff
@@ -464,6 +459,35 @@ theorem maximal_isAcyclic_iff_isTree [Nonempty V] {T : SimpleGraph V} :
     Maximal IsAcyclic T ↔ T.IsTree := by
   simp [← connected_top.maximal_le_isAcyclic_iff_isTree le_top]
 
+/-- Every acyclic subgraph can be extended to a spanning forest. -/
+theorem exists_isAcyclic_reachable_eq_le_of_le_of_isAcyclic {H : SimpleGraph V} (hH_le : H ≤ G)
+  (hH_isAcyclic : H.IsAcyclic) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]:
```suggestion
    (hH_isAcyclic : H.IsAcyclic) :
```

**Review by b-mehta — COMMENTED** [review]
Very nice, thank you!

bors d+

**Comment by thomaskwaring** [comment]
thanks!

bors r+
